US07122558B2
Preparation of 2-Cyclopentyl-2-fur-2-yl-2-hydroxyacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester
Cyclopentylmagnesium cloride, 0.0472 mol (23.6 ml of a solution 2M in ether) was added to a solution of 9.4 g (0.0377 mol) of 2-fur-2-yl-2-oxoacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester dissolved in 125 ml of THF, at −70° C. under a N2 atmosphere. The mixture was stirred at this temperature for 10 minutes, and then warmed to room temperature. After 16 h, the reaction mixture was treated with a saturated solution of ammonium chloride and extracted twice with ethyl acetate. The organic phases were combined, washed with water, and dried over MgSO4. After removal of the solvent, the oil obtained (7.5 g) was purified by chromatography on silica gel eluting with chloroform/methanol/ammonia 95:5:0.5. Appropiate fractions were combined and evaporated to obtain the two diastereomers: I-14a, I-14b

reactant | Cyclopentylmagnesium cloride | C1(CCCC1)[Mg]Cl
reactant | 2-fur-2-yl-2-oxoacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | 0.0377 mol, 9.4 g | N12C[C@@H](C(CC1)CC2)OC(C(=O)C=2OC=CC2)=O | C13H15NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 2-Cyclopentyl-2-fur-2-yl-2-hydroxyacetic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(C(O)(C=2OC=CC2)C2CCCC2)=O | C18H25NO4
